US06235785B1
A. Preparation of 2-[3-(allyloxy)benzoyl]benzoic acid
To a solution of 3-(allyloxy)bromobenzene (15.0 g, 70.5 mmol) in tetrahydrofuran (750 mL) at −70° C. was added 1.6M n-butyllithium (44.1 mL, 70.5 mmol). After stirring for 1 hour, a solution of phthalic anhydride (11.4 g, 77.0 mmol) in tetrahydrofuran (100 mL, previously cooled to −70° C.) was added over 1 hour. The mixture was allowed to warm to room temperature and stirred for 3 hours. The mixture was diluted with saturated ammonium chloride solution and extracted with diethyl ether. The organic layer was washed three times with 1N sodium hydroxide solution and the combined aqueous layers were back-extracted with a fresh portion of diethyl ether. The aqueous layer was adjusted to pH˜3 with aqueous hydrochloric acid and extracted three times with fresh diethyl ether. The combined organic layers were washed once with water, once with saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo to reveal an off-white solid. Recrystallization from ether/hexane provided 10.3 g (52%) of the title intermediate as a white crystalline material: mp 109° C.; NMR (CDCl3) 8.20 (d, J=8 Hz, 1H), 7.65 (t, J=8 Hz, 1H), 7.60 (t, J=8 Hz, 1H), 7.30-7.45 (m, 3H), 7.28 (d, J=8 Hz, 1H), 7.20 (d, J=8 Hz, 1H), 6.02 (m, 1H), 5.35 (d, J=16 Hz, 1H), 5.30 (d, J=11 Hz, 1H), 4.55 (d, J=6 Hz, 2H); MS-FD m/e 283 (p+1, 27), 282 (p, 100).

reactant | 3-(allyloxy)bromobenzene | 70.5 mmol, 15.0 g | C(C=C)OC=1C=C(C=CC1)Br | C9H9BrO
reactant | n-butyllithium | 70.5 mmol, 1.6M, 44.1 mL | C(CCC)[Li]
reactant | phthalic anhydride | 77.0 mmol, 11.4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | tetrahydrofuran | 750 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-[3-(allyloxy)benzoyl]benzoic acid | 10.3 g, 52% | C(C=C)OC=1C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC1 | C17H14O4
